US04528143
A mixture of 7.7 g (0.040 mol) of 2,5-dichloronitrobenzene and 4.0 g (0.044 mol) of copper (I) cyanide in 4.0 ml (0.05 mol) of N,N-dimethylformamide was refluxed for 3.5 hours. The reaction mixture was poured slowly into 39 ml (0.40 mol) of ethyl acetate and followed by stirring for 10 hours at room temperature. The precipitate was filtered and washed with 3 ml of ethyl acetate. After concentration of the combined filtrate, the residue gave 4.6 g (63.0%) of 4-chloro-2-nitrobenzonitrile purified by the procedure of Example 1.

reactant | 2,5-dichloronitrobenzene | 0.040 mol, 7.7 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | copper (I) cyanide | 0.044 mol, 4.0 g | [Cu]C#N
reactant | N,N-dimethylformamide | 0.05 mol, 4.0 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | 0.40 mol, 39 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2-nitrobenzonitrile | 4.6 g, 63.0% | ClC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
